US05624961
Synthesis of N-(3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl)-N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine
Triethylamine (7.0 ml) was added dropwise to a solution of 3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl chloride (10.73 g) and N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine (10.37 g) in N,N-dimethylformamide (60 ml) while stirring the mixture at room temperature. Immediately after the dropwise addition, heat was developed and salt was precipitated. The mixture was stirred at room temperature for 2 hours and triethylamine (2.0 ml) was added. The mixture was stirred for 1 hour. The reaction mixture was poured on ice water and extracted with ethyl acetate to give a crude product. The product was purified by silica gel chromatography (eluent; ethyl acetate/benzene=1/1) to give 18.03 g of the title compound (pale brown solid).

reactant | Triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl chloride | 10.73 g | OC=1C(=C(CCl)C(=C(C1C)C)OC)C | C11H15ClO2
reactant | N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine | 10.37 g | CNCCOC1=C(C=CC(=C1)C)C(C)C | C13H21NO
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl)-N-methyl-2-(2-isopropyl-5-methylphenoxy)ethylamine | 18.03 g | OC=1C(=C(CN(C)CCOC2=C(C=CC(=C2)C)C(C)C)C(=C(C1C)C)OC)C | C24H35NO3
